US05189179
8B) N-(4-Methoxyphenyl)-6-oxo-7-phenylheptanamide
6-Oxo-6-(N,O-dimethylhydroxylamino)-N-(4-methoxyphenyl) hexanamide (454 mg) was dissolved in tetrahydrofuran (13 mL) and cooled to -78° C. Benzylmagnesium chloride in tetrahydrofuran (2.0M, 1.6 mL) was added and reaction was warmed to 20° C. After 24 hours, additional benzylmagnesium chloride in tetrahydrofuran (2.0M, 0.4 mL) was added. After 24 hours, 1.0M aqueous hydrochloric acid (10 mL) was added and reaction extracted using dichloromethane (2×15 mL). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. The resulting solid was chromatographed eluting with 30:70 ethyl acetate:hexanes to afford the title compound (Rf of 0.68 in 70:30 ethyl acetate:hexanes) as white crystals (200 mg).

reactant | 6-Oxo-6-(N,O-dimethylhydroxylamino)-N-(4-methoxyphenyl) hexanamide | 454 mg | O=C(CCCCC(=O)NC1=CC=C(C=C1)OC)N(C)OC | C15H22N2O4
reactant | Benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | hydrochloric acid | 1.0M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0M, 1.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0M, 0.4 mL | O1CCCC1 | C4H8O
product | N-(4-Methoxyphenyl)-6-oxo-7-phenylheptanamide | 200 mg | COC1=CC=C(C=C1)NC(CCCCC(CC1=CC=CC=C1)=O)=O | C20H23NO3
